US08349886B2
methyl 2-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-3-(tetrahydro-2H-pyran-4-yl)propanoate
To a solution of diisopropylamine (4.0 mL) in tetrahydrofuran (60 mL) was slowly added 1.6M hexane solution (16.1 ml) of n-butyllithium at −70° C. under a nitrogen atmosphere. The reaction mixture was stirred at −70° C. for 15 min, and a solution of methyl [1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]acetate (4.68 g) in tetrahydrofuran (5 mL) was slowly added thereto. The reaction mixture was stirred at −70° C. for 15 min, and 4-(iodomethyl)tetrahydro-2H-pyran (5.80 g) was added thereto. The mixture was stirred overnight at room temperature. To the reaction mixture was added 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (2.57 g, yield 37%) as a pale-yellow oil from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). MS: 299 (MH+).

reactant | diisopropylamine | 4.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl [1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]acetate | 4.68 g | CN1N=C(C=C1SC)CC(=O)OC | C8H12N2O2S
reactant | 4-(iodomethyl)tetrahydro-2H-pyran | 5.80 g | ICC1CCOCC1 | C6H11IO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.6M, 16.1 ml | CCCCCC | C6H14
product | methyl 2-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-3-(tetrahydro-2H-pyran-4-yl)propanoate | 2.57 g, yield 37% | CN1N=C(C=C1SC)C(C(=O)OC)CC1CCOCC1 | C14H22N2O3S
